US05532240
The reaction and procedure were conducted in a similar manner as in Example 24 using 2.0 g of 6-acetyl-(3-chloropropyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine and 2.0 g of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride to give 0.5 g of 6-acetyl-3-(3-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)propionyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine as an oil, m.p. 180°-182° C. as oxalate thereof.

reactant | 6-acetyl-(3-chloropropyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 2.0 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCCCl | C13H18ClNOS
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 2.0 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
product | 6-acetyl-3-(3-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)propionyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 0.5 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)C(CCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F)=O | C25H28FN3O3S
